### PR TITLE
two lemmas from MCA's `unstable.v`

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/ssrnum.v [hunk 1]
```diff
@@ -3514,15 +3514,35 @@ End PolyBounds.
...
+Lemma leif_mean_square x y : x * y <= (x ^+ 2 + y ^+ 2) / 2 ?= iff (x == y).
 Proof. by apply: real_leif_mean_square; apply: num_real. Qed.
 
-Lemma leif_AGM2 : x * y <= ((x + y) / 2)^+ 2 ?= iff (x == y).
+Lemma leif_AGM2 x y : x * y <= ((x + y) / 2)^+ 2 ?= iff (x == y).
 Proof. by apply: real_leif_AGM2; apply: num_real. Qed.
 
+Section MinMax.
+
+Let nz2 : 2%:R != 0 :> F. Proof. by rewrite pnatr_eq0. Qed.
```
Comment (proux01) [inline algebra/ssrnum.v:3528]: Probably
```suggestion
Let nz2 : 2 != 0 :> F. Proof. by rewrite pnatr_eq0. Qed.
```
(and same below)

File: algebra/ssrnum.v [hunk 2]
```diff
@@ -3514,15 +3514,35 @@ End PolyBounds.
...
+
+Lemma maxr_absE x y : Num.max x y = (x + y + `|x - y|) / 2%:R.
+Proof.
+apply: canRL (mulfK _) _ => //; rewrite ?pnatr_eq0//.
+case: lerP => _; (* TODO: ring *) rewrite [2%:R]mulr2n mulrDr mulr1.
```
Comment (proux01) [inline algebra/ssrnum.v:3533]: We can probably remove the TODO since we don't have ring here (at least for now)

**Review by proux01 — APPROVED** [review]
